US07538111B2
4-[2-(4-methyl-1-piperazinyl)ethyl]pyridine
In a tube, 2 ml (19 mM) of 4-vinylpyridine, 3.16 ml (28.5 mM) of N-methylpiperazine, and 200 μl of acetic acid are mixed in 12 ml of ethanol. The tube is closed and heated for 10 minutes at 160° C. in a microwave oven. After cooling, 20 ml of 0.5N sodium hydroxide are added slowly and the mixture is extracted with dichloromethane. The separated organic phase is dried over magnesium sulphate and concentrated under reduced pressure. The product sought after is thus obtained as a yellow oil (yield=86%).

reactant | 4-vinylpyridine | 19 mM, 2 ml | C(=C)C1=CC=NC=C1 | C7H7N
reactant | N-methylpiperazine | 28.5 mM, 3.16 ml | CN1CCNCC1 | C5H12N2
reactant | acetic acid | 200 μl | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 0.5N, 20 ml | [OH-].[Na+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 4-[2-(4-methyl-1-piperazinyl)ethyl]pyridine | yield=86% | CN1CCN(CC1)CCC1=CC=NC=C1 | C12H19N3
